US07101856B2
4.1 g of (4-methoxy-phenyl)-[3-(3,4,5-trihydroxy-6-hydroxymethyl-tetrahydro-pyran-2-yloxy)-thiophen-2-yl]-methanone were dissolved in 200 ml of tetrahydrofuran+20 ml of methanol, and 500 mg of sodium borohydride were added. After the reaction was complete (TLC check, dichloromethane/methanol/conc. ammonia=30:5:0.1; about 30-60 min), water was added and the mixture was extracted three times with ethyl acetate. The combined organic phases were dried over magnesium sulfate and concentrated. 2-{2-[Hydroxy-(4-methoxy-phenyl)-methyl]-thiophen-3-yloxy}-6-hydroxymethyl-tetrahydro-pyran-3,4,5-triol was obtained as crude product which was purified by filtration through silica gel.

reactant | (4-methoxy-phenyl)-[3-(3,4,5-trihydroxy-6-hydroxymethyl-tetrahydro-pyran-2-yloxy)-thiophen-2-yl]-methanone | 4.1 g | COC1=CC=C(C=C1)C(=O)C=1SC=CC1OC1OC(C(C(C1O)O)O)CO | C18H20O8S
reactant | sodium borohydride | 500 mg | [BH4-].[Na+]
reactant | dichloromethane methanol | ClCCl.CO
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
solvent | water | O | H2O
product | 2-{2-[Hydroxy-(4-methoxy-phenyl)-methyl]-thiophen-3-yloxy}-6-hydroxymethyl-tetrahydro-pyran-3,4,5-triol | OC(C=1SC=CC1OC1OC(C(C(C1O)O)O)CO)C1=CC=C(C=C1)OC | C18H22O8S
